US07122544B2
Stirred 4-aminopiperidyl 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl ketone hydrochloride (300 mg, 0.582 mmol) in 10 mL THF with triethylamine (0.293 mg, 2.91 mmol). Acetic anhydride (89 mg, 0.873 mmol) was added and the reaction was stirred for 40 minutes. The solution was concentrated down and purified by preperative HPLC to give N-{1-[(4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl)carbonyl]-4-piperidyl}acetamide (0.120 g, 46% yield): HPLC Retention time; 6.92 min. (Method B) M+1; 450.4

reactant | 4-aminopiperidyl 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl ketone hydrochloride | 0.582 mmol, 300 mg | Cl.ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)N
reactant | triethylamine | 2.91 mmol, 0.293 mg | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.873 mmol, 89 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-{1-[(4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl)carbonyl]-4-piperidyl}acetamide | 0.120 g, 46% yield | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)NC(C)=O | C24H24ClN5O2
